US06335303B1
N,N′-Bis(3,5-bis-trifluoromethylphenyl)ethanediamide, [(3,5-(CF3)2C6H3)NHC(═O)]2
Into a 250 mnL Schlenk vessel was placed 100 mL of dry TBF, 3.50 g of oxalyl chloride and 12.4 g of 3,5-bis(trifluoromethyl)aniline. The mixture was refluxed under argon for 12 hours and then allowed to cool. All of the solvent was removed in vacuo to leave a pale brown solid. This was washed with hexane and toluene and pumped dry. Yield 10.33 g.

reactant | oxalyl chloride | 3.50 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,5-bis(trifluoromethyl)aniline | 12.4 g | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N,N′-Bis(3,5-bis-trifluoromethylphenyl)ethanediamide | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)(F)F | C18H8F12N2O2
